US04098789
[[[2-[3-(Dimethylamino)propoxy]phenyl]methyl][1-oxo-3-(4-aminophenyl)-2-propenyl]amino]acetic acid, ethyl ester, oxamate salt (1:2)
A suspension of 10 parts of [[[2-[3-(dimethylamino)propoxy]-phenyl]methyl][1-oxo-3-(4-nitrophenyl)-2-propenyl]amino]acetic acid, ethyl ester, oxamate salt (1:2) in 100 ml of ethanol is treated with 1 part of 5% palladium on carbon and placed under 3 atmospheres of gaseous hydrogen. The mixture is shaken until one equivalent of hydrogen is consumed, filtered and the solvent evaporated under reduced pressure to give the title compound.

reactant | [[[2-[3-(dimethylamino)propoxy]-phenyl]methyl][1-oxo-3-(4-nitrophenyl)-2-propenyl]amino]acetic acid, ethyl ester, oxamate salt | C(C(=O)N)(=O)O.CN(CCCOC1=C(C=CC=C1)CN(C(C=CC1=CC=C(C=C1)[N+](=O)[O-])=O)CC(=O)OCC)C
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | one equivalent | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | [[[2-[3-(Dimethylamino)propoxy]phenyl]methyl][1-oxo-3-(4-aminophenyl)-2-propenyl]amino]acetic acid, ethyl ester, oxamate salt | C(C(=O)N)(=O)O.CN(CCCOC1=C(C=CC=C1)CN(C(C=CC1=CC=C(C=C1)N)=O)CC(=O)OCC)C | InChI=1S/C25H33N3O4.C2H3NO3/c1-4-31-25(30)19-28(24(29)15-12-20-10-13-22(26)14-11-20)18-21-8-5-6-9-23(21)32-17-7-16-27(2)3;3-1(4)2(5)6/h5-6,8-15H,4,7,16-19,26H2,1-3H3;(H2,3,4)(H,5,6)
